US05232925
4-[2-(N-Methyl-N-(2-thiazolyl)amino)ethoxy]benzaldehyde
The title compound was prepared from 2-[N-methyl-N-(2-thiazolyl)amino]ethanol (10.7 g) and 4-fluoro-benzaldehyde (15.9 g) by an analogous procedure to that described in Preparation 5.

reactant | 2-[N-methyl-N-(2-thiazolyl)amino]ethanol | 10.7 g | CN(C=1SC=CN1)CCO | C6H10N2OS
reactant | 4-fluoro-benzaldehyde | 15.9 g | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-[2-(N-Methyl-N-(2-thiazolyl)amino)ethoxy]benzaldehyde | CN(C=1SC=CN1)CCOC1=CC=C(C=O)C=C1 | C13H14N2O2S
